US04152319
N-(3,5-di tert.butyl-4-hydroxyphenyl)methacrylamide was prepared by adding a solution of 11.5 grams of methacryloyl chloride in 50 milliliters of benzene to the solution of 2,6-di tert.butyl-4-aminophenol to which had been added 6 grams of sodium carbonate. The addition was accomplished in 30 minutes at 24° C. to 37° C. The mixture was stirred for 1 hour and the solid product was filtered off, washed thoroughly with 2% hydrochloric acid and dried. The yield was 10.0 grams of product which melted at 222° C. to 225° C.

reactant | methacryloyl chloride | 11.5 grams | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 2,6-di tert.butyl-4-aminophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
reactant | sodium carbonate | 6 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | N-(3,5-di tert.butyl-4-hydroxyphenyl)methacrylamide | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(C(=C)C)=O | C18H27NO2
